US07452993B2
To a solution of 5-bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine (470 mg, 1.45 mmol), 60% sodium hydride in mineral oil (104 mg, 4.35 mmol) and tetra-n-butylammonium iodide (134 mg, 0.36 mmol) in DMF (10 mL) was added methoxyethoxymethyl chloride (248 μl, 2.18 mmol) at room temperature and the mixture was stirred for 4 h at the same temperature and subsequently quenched by addition of methanol. The mixture was then distributed between ether and brine and the organic layer dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash silica gel chromatography using a gradient of ethyl acetate in hexanes to afford 5-bromo-3-iodo-1-(2-methoxy-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (254 mg, 0.69 mmol, 74% yield) as a colorless solid (1:1 mixture with regioisomer 5-bromo-3-iodo-2-(2-methoxy-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine). 1H-NMR (500 MHz, d6-DMSO) isomer A (50%) δ8.75 (d, 1H), 8.29 (d, 1H), 5.78 (s, 1H), 3.61-3.63 (m, 2H), 3.37-3.39 (m, 2H), 3.17 (s, 3H); isomer B (50%) δ 8.74 (d, 1H), 8.28 (d, 1H), 5.77 (s, 1H), 3.61-3.63 (m, 2H), 3.37-3.39 (m, 2H), 3.16 (s, 3H).

reactant | 5-bromo-3-iodo-1H-pyrazolo[3,4-b]pyridine | 1.45 mmol, 470 mg | BrC=1C=C2C(=NC1)NN=C2I | C6H3BrIN3
reactant | sodium hydride | [H-].[Na+]
reactant | methoxyethoxymethyl chloride | 2.18 mmol, 248 μl | COCCOCCl | C4H9ClO2
reactant | 5-bromo-3-iodo-2-(2-methoxy-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | BrC=1C=C2C(=NC1)NN(C2I)COCCOC | C10H13BrIN3O2
catalyst | tetra-n-butylammonium iodide | 0.36 mmol, 134 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-iodo-1-(2-methoxy-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 0.69 mmol, 254 mg, 74% yield | BrC=1C=C2C(=NC1)N(N=C2I)COCCOC | C10H11BrIN3O2
